US08609653B2
2-(tert-butoxy)-2-(1-(4-fluoro-3-(trifluoromethyl)benzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared from methyl 2-(tert-butoxy)-2-(6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 4-(bromomethyl)-1-fluoro-2-(trifluoromethyl)benzene in a manner similar to that described in Example 25 as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=7.67-7.58 (m, 2 H), 7.48-7.38 (m, 2 H), 7.34 (d, J=7.8 Hz, 2 H), 7.16 (t, J=9.3 Hz, 1 H), 7.05 (d, J=3.5 Hz, 1 H), 6.26 (d, J=3.5 Hz, 1H), 5.60-5.45 (m, 3 H), 2.75 (s, 3 H), 2.47 (s, 3 H), 0.95 (s, 9 H); LCMS (m/z) ES+=529 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C2=CC=C(C=C2)C | C22H26N2O3
reactant | 4-(bromomethyl)-1-fluoro-2-(trifluoromethyl)benzene | BrCC1=CC(=C(C=C1)F)C(F)(F)F | C8H5BrF4
product | 2-(tert-butoxy)-2-(1-(4-fluoro-3-(trifluoromethyl)benzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)F)C(F)(F)F)C2=CC=C(C=C2)C | C29H28F4N2O3
